US07968570B2
A mixture of naphthalen-2-yl-methylamine (47.2 mg, 0.3 mmol), 2-bromomethyl-benzoic acid methyl ester (68.7 mg, 0.3 mmol), and K2CO3 (83 mg, 0.6 mmol) in toluene (2 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using a gradient of hexanes to 50% ethyl acetate in hexanes afforded 2-naphthalen-2-ylmethyl-2,3-dihydroisoindol-1-one (57 mg, 70%). GC/MS gave: m/z (rel.int.) 273 (M+, 45), 141 (100), 119 (27), 115 (27), and 91 (25).

reactant | naphthalen-2-yl-methylamine | 0.3 mmol, 47.2 mg | C1=C(C=CC2=CC=CC=C12)NC | C11H11N
reactant | 2-bromomethyl-benzoic acid methyl ester | 0.3 mmol, 68.7 mg | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | K2CO3 | 0.6 mmol, 83 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-naphthalen-2-ylmethyl-2,3-dihydroisoindol-1-one | 57 mg, 70% | C1=C(C=CC2=CC=CC=C12)CN1C(C2=CC=CC=C2C1)=O | C19H15NO
